US07157591B2
(a) 2,5-Dimethyl-4-phenylindene
4-Bromo-2,5-dimethylindene (9.0 g, 40 mmol), prepared as described under I.(b) above, and NiCl2(PPh3)2 (1.8 g, 2.8 mmol) were dissolved in 300 ml of diethyl ether (Et2O). Phenylmagnesium bromide, 3.0 M in Et2O, (13.5 ml, 40 mmol) was added under vigorous stirring and the reaction stirred overnight at reflux. The resultant reaction was slowly quenched with H2O to neutralize unreacted Grignard reagent, subsequently treated with 100 ml of 10% HCl(aq), and neutralized with saturated sodium bicarbonate aqueous solution. The resultant organic layer was dried with magnesium sulfate, and the solvent was removed by rotary evaporation. The remaining residue was loaded onto a silica gel column and eluted with hexane. Yield is 1.3 g (15%).

reactant | 4-Bromo-2,5-dimethylindene | 40 mmol, 9.0 g | BrC1=C2C=C(CC2=CC=C1C)C | C11H11Br
reactant | Phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
solvent | diethyl ether | 300 ml | C(C)OCC | C4H10O
catalyst | NiCl2(PPh3)2 | 2.8 mmol, 1.8 g | Cl[Ni]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | Et2O | 40 mmol, 13.5 ml | CCOCC | C4H10O
product | 2,5-Dimethyl-4-phenylindene | CC=1CC2=CC=C(C(=C2C1)C1=CC=CC=C1)C | C17H16
